US03975384
6-Ethoxy-2-methylthio-4-(1-oxido-thiomorpholino)-5-nitropyrimidine
2-Methylthio-6-neopentoxy-5-nitro-4-thiomorpholinopyrimidine from 4-chloro-2-methylthio-6-neopentoxy-5-nitro-pyrimidine and thiomorpholine. M.p. 102°-104°C (ethanol).

reactant | 2-Methylthio-6-neopentoxy-5-nitro-4-thiomorpholinopyrimidine | CSC1=NC(=C(C(=N1)N1CCSCC1)[N+](=O)[O-])OCC(C)(C)C | C14H22N4O3S2
reactant | 4-chloro-2-methylthio-6-neopentoxy-5-nitro-pyrimidine | ClC1=NC(=NC(=C1[N+](=O)[O-])OCC(C)(C)C)SC | C10H14ClN3O3S
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
solvent | ethanol | C(C)O | C2H6O
product | 6-Ethoxy-2-methylthio-4-(1-oxido-thiomorpholino)-5-nitropyrimidine | C(C)OC1=C(C(=NC(=N1)SC)N1CCS(CC1)=O)[N+](=O)[O-] | C11H16N4O4S2
